US06930120B2
2-Methyl-3-(4-{2-[5-methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethoxy}-phenyl)-2-o-tolyloxy-propionic acid
The title compound was prepared using the representative Standard Procedure (E) from 3-(4-Hydroxy-phenyl)-2-methyl-2-o-tolyloxy-propionic acid ethyl ester and Toluene-4-sulfonic acid 2-[5-methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethyl ester. 1H NMR (400 MHz, CDCl3): δ 7.14-7.11 (m, 3H), 7.08-7.04 (m, 1H), 6.91 (t, 1H, J=7.82 Hz), 6.81 (d, 1H, J=8.60 Hz), 6.76 (d, 2H, J=8.60 Hz), 4.10 (t, 2H, J=6.26 Hz), 3.24 (d, 1H, J=14.08 Hz), 3.18 (d, 1H, J=14.08 Hz), 2.93 (t, 2H, J=6.26 Hz), 2.27 (s, 3H), 2.17 (s, 3H), 2.13-2.06 (m, 2H), 1.54-1.48 (m, 8H), 1.40-1.34 (m, 3H), 1.27 (s, 3H). MS [EI+] 492 (M+H)+, [EI−] 490 (M−H)+.

reactant | 3-(4-Hydroxy-phenyl)-2-methyl-2-o-tolyloxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(OC1=C(C=CC=C1)C)C)=O | C19H22O4
reactant | Toluene-4-sulfonic acid 2-[5-methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethyl ester | CC1=C(N=C(O1)C1(CCCCC1)C)CCOS(=O)(=O)C1=CC=C(C=C1)C | C20H27NO4S
product | 2-Methyl-3-(4-{2-[5-methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethoxy}-phenyl)-2-o-tolyloxy-propionic acid | CC(C(=O)O)(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1(CCCCC1)C)OC1=C(C=CC=C1)C | C30H37NO5
